US04018824
1-(iso-propyl)-3-azetidinol and m-cresol were reacted in the same manner as in Example 7 to yield 1-(3'-methyl-phenoxy)-3-(iso-propylamino)-2-propanol melting at 80°-82° C. The yield was 81%.

reactant | 1-(iso-propyl)-3-azetidinol | C(C)(C)N1CC(C1)O | C6H13NO
reactant | m-cresol | C1=C(C=CC=C1O)C | C7H8O
product | 1-(3'-methyl-phenoxy)-3-(iso-propylamino)-2-propanol | yield was 81% | CC=1C=C(OCC(CNC(C)C)O)C=CC1 | C13H21NO2
